US04692182
Under an argon atmosphere, platinum oxide (0.3 g) was added to a Parr bottle (500 ml), followed by a solution of 2-[(2-chloro-6-nitrophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone (9.4 g, 0.033 mole) in ethanol (150 ml). The Parr bottle was placed on a Parr hydrogenation apparatus and charged with hydrogen. The reaction mixture was allowed to shake until the calculated amount of hydrogen was absorbed. The catalyst was removed by vacuum filtration. The filtrate was concentrated under reduced pressure to a residue. The residue was chromatographed on silica gel, eluting with 1:4 ethyl acetate:heptane. The appropriate fractions were combined and concentrated under reduced pressure to yield 5.0 g of 2-[(6-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone as a white solid.

reactant | 2-[(2-chloro-6-nitrophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.033 mole, 9.4 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])CN1OCC(C1=O)(C)C | C12H13ClN2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.3 g | [Pt]=O
product | 2-[(6-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 5.0 g | NC1=CC=CC(=C1CN1OCC(C1=O)(C)C)Cl | C12H15ClN2O2
